US08058313B2
4-((1E)-2-(((E)-4-Hydroxy-3-methoxystyrylsulfonyl)methylsulfonyl)vinyl)-2-methoxyphenol
A solution of 3-methoxy-4-hydroxybenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 60% yield. m.p. 125-127° C.

reactant | 3-methoxy-4-hydroxybenzaldehyde | 2 mmol | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-((1E)-2-(((E)-4-Hydroxy-3-methoxystyrylsulfonyl)methylsulfonyl)vinyl)-2-methoxyphenol | 60% yield | OC1=C(C=C(/C=C/S(=O)(=O)CS(=O)(=O)/C=C/C2=CC(=C(C=C2)O)OC)C=C1)OC | C19H20O8S2
